US08835634B2
3(4-chlorophenyl)-1-ethyl-quinoxalin-2(1H)-one
To 200 mg (0.79 mM) of 3-bromo-1-ethyl-quinoxalin-2(1H)-one and 27.7 mg (0.04 mM) of bis(triphenylphosphine)palladium (II) chloride in 1 ml of dimethylformamide were added under nitrogen 185.3 mg (1,185 mM) of 4-chlorophenylboronic acid and 0.8 ml (1.6 mM) of a 2M sodium carbonate aqueous solution. The reaction mixture was heated to 90° C. and stirred for 30 min under nitrogen atmosphere. Water was added and the mixture was extracted with ethyl acetate. The organic phase was separated, dried over anhydrous sodium sulfate, and concentrated. The compound was purified through a silica plug eluting with dichloromethane, which afforded after evaporation 132 mg of 3-(4-chlorophenyl)-1-ethyl-quinoxaline-2(1H)-one as a solid. Yield: 59%.

reactant | 3-bromo-1-ethyl-quinoxalin-2(1H)-one | 0.79 mM, 200 mg | BrC=1C(N(C2=CC=CC=C2N1)CC)=O | C10H9BrN2O
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.04 mM, 27.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3(4-chlorophenyl)-1-ethyl-quinoxalin-2(1H)-one | Yield: 59% | ClC1=CC=C(C=C1)C=1C(N(C2=CC=CC=C2N1)CC)=O | C16H13ClN2O
